US06399534B2
4-(2-Hydroxyphenyl)butyric acid (1 g, 5.55 mmol) was dissolved in 20 mL anhydrous methanol, and 5 mL sulfuric acid. The mixture was heated to reflux for 6 hours. After aqueous workup, 1.14 g of methyl 4-(2-hydroxyphenyl)butyrate was obtained. 1H NMR (CDCl3): 1.92 (q, 2H), 2.40 (t, 2H), 2.65 (t, 2H), 3.72 (s, 3H), 6.84 (m, 2H), 7.10 (m, 2H).

reactant | 4-(2-Hydroxyphenyl)butyric acid | 5.55 mmol, 1 g | OC1=C(C=CC=C1)CCCC(=O)O | C10H12O3
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 mL | CO | CH4O
product | methyl 4-(2-hydroxyphenyl)butyrate | 1.14 g | OC1=C(C=CC=C1)CCCC(=O)OC | C11H14O3
